US04769386
1-Bromo-2-pentadecyne (0.01 mole) and triphenylphosphine (0.01 mole) are mixed in ether to give pentadec-2-ynyl-triphenylphosphonium bromide. The salt (0.01 mole) is dissolved in absolute ethanol containing one equivalent of sodium ethoxide. Ethyl 5-oxopentanoate (0.01 mole) is added and the mixture is refluxed for 24 hours to give a mixture of cis-and-trans ethyl 5-eicosen-7-ynoate. The isomers are separated by chromatography and the trans isomer is converted to 5-hydroxy-6-(1,4-dimethyl-5-carboxy-2-imidazolylthio)-7-eicosynoic acid as described in Example 14(c).

reactant | 1-Bromo-2-pentadecyne | 0.01 mole | BrCC#CCCCCCCCCCCCC | C15H27Br
reactant | triphenylphosphine | 0.01 mole | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ether | CCOCC | C4H10O
product | pentadec-2-ynyl-triphenylphosphonium bromide | [Br-].C(C#CCCCCCCCCCCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C33H42P.BrH/c1-2-3-4-5-6-7-8-9-10-11-12-13-23-30-34(31-24-17-14-18-25-31,32-26-19-15-20-27-32)33-28-21-16-22-29-33;/h14-22,24-29H,2-12,30H2,1H3;1H/q+1;/p-1
